US08003649B2
DIPEA (0.087 mL, 0.5 mmol) was added to 4-[[1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]oxy]benzoic acid (100 mg, 0.25 mmol), 2-(methylamino)ethanol (20.28 mg, 0.27 mmol) and HATU (114 mg, 0.3 mmol) in DMF (2 mL). The resulting solution was stirred at room temperature for 24 hours. The crude product was purified by preparative HPLC (Waters XBridge Prep C18 OBD column, 5μ silica, 21 mm diameter, 100 mm length), using decreasingly polar mixtures of water (containing 1% ammonia) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to afford N-(2-hydroxyethyl)-N-methyl-4-[[1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]oxy]benzamide (64 mg, 55%).

reactant | DIPEA | 0.5 mmol, 0.087 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-[[1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]oxy]benzoic acid | 0.25 mmol, 100 mg | FC(C1=NN=C2N1N=C(C=C2)N2CCC(CC2)OC2=CC=C(C(=O)O)C=C2)(F)F | C18H16F3N5O3
reactant | 2-(methylamino)ethanol | 0.27 mmol, 20.28 mg | CNCCO | C3H9NO
reactant | HATU | 0.3 mmol, 114 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-(2-hydroxyethyl)-N-methyl-4-[[1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]oxy]benzamide | 64 mg, 55% | OCCN(C(C1=CC=C(C=C1)OC1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F)=O)C | C21H23F3N6O3
